US05132457
To a stirred solution of diol (2S,3S)-2-Methyl-3-phenyl-3-hydroxy-propanol (2.5 g,15 m.mole) in THF (20 ml) was added NaOH (1 g, 40 m.mole) and Tosyl chloride (5 g, 25 m.mole) in THF (5 ml). The cloudy solution was stirred at room temperature for 6 hours and then THF was evaporated under vaccu, diluted with ether (50 ml) washed with water (2×10 ml) and dried over anhydrous MgSO4. Evaporation gave crude tosylate (2S,3S)-2-Methyl-3-phenyl-3-hydroxy-1-tosyloxy-propane (4.1 g, 85%) sufficiently pure for the next step as a yellow viscous oil.

reactant | NaOH | 1 g | [OH-].[Na+]
reactant | Tosyl chloride | 5 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | tosylate (2S,3S)-2-Methyl-3-phenyl-3-hydroxy-1-tosyloxy-propane | 4.1 g, 85% | C[C@@H](COS(=O)(=O)C1=CC=C(C)C=C1)[C@H](O)C1=CC=CC=C1.S(=O)(=O)(O)C1=CC=C(C)C=C1 | InChI=1S/C17H20O4S.C7H8O3S/c1-13-8-10-16(11-9-13)22(19,20)21-12-14(2)17(18)15-6-4-3-5-7-15;1-6-2-4-7(5-3-6)11(8,9)10/h3-11,14,17-18H,12H2,1-2H3;2-5H,1H3,(H,8,9,10)/t14-,17-;/m0./s1
